US04814332
0.66 g of 1-[[p-(dimethylamino)benzylidene]-amino]-2,3-dimethylimidazolium tetrafluoroborate, 0.45 g of p-(dimethylamino)benzaldehyde and 0.34 g of piperidine are suspended in 30 ml of toluene, whereupon the suspension is heated to boiling under reflux for about 70 hours on a water separator filled with toluene which contains 5% piperidine. The precipitated material is removed by filtration under suction, washed with toluene, twice with diethyl ether and twice with water and recrystallized from methanol. There is obtained colorless 1-[[p-(dimethylamino)benzylidene]amino]-2-[p-(dimethylamino)styryl]-3-methylimidazolium tetrafluoroborate of melting point 235°-238°.

reactant | 1-[[p-(dimethylamino)benzylidene]-amino]-2,3-dimethylimidazolium tetrafluoroborate | 0.66 g | F[B-](F)(F)F.CN(C1=CC=C(C=N[N+]2=C(N(C=C2)C)C)C=C1)C
reactant | p-(dimethylamino)benzaldehyde | 0.45 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | piperidine | 0.34 g | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[[p-(dimethylamino)benzylidene]amino]-2-[p-(dimethylamino)styryl]-3-methylimidazolium tetrafluoroborate | F[B-](F)(F)F.CN(C1=CC=C(C=N[N+]2=C(N(C=C2)C)C=CC2=CC=C(C=C2)N(C)C)C=C1)C | InChI=1S/C23H28N5.BF4/c1-25(2)21-11-6-19(7-12-21)10-15-23-27(5)16-17-28(23)24-18-20-8-13-22(14-9-20)26(3)4;2-1(3,4)5/h6-18H,1-5H3;/q+1;-1
